US07851465B2
(E)-3-(2-Bromobenzyl)-5,7-dichloro-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one (150 mg, 0.364 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one (95 mg, 0.364 mmol) and lithium chloride (46 mg, 1.09 mmol) were added to 1,4-dioxane (3 mL). Nitrogen was bubbled into the solution as reagents were added. Tetrakis(triphenylphosphine) palladium(0) (42 mg, 0.036 mmol) was added followed by cesium hydroxide monohydrate (183 mg, 1.09 mmol) and water (1 mL). After bubbling nitrogen through for 5 minutes, the reaction mixture was heated to 100° C. under a nitrogen atmosphere. After heating for 1 hour, the mixture was cooled to ambient temperature, diluted with ethyl acetate (25 mL), washed with water (2×20 mL), then brine (20 mL), dried with sodium sulfate, decanted then concentrated in the presence of silica. The dried silica-bound residue was dry loaded onto a silica gel column and eluted with a gradient of 60-100% ethyl acetate in hexanes then a gradient of 0-25% methanol in ethyl acetate to yield (Z)-3-(2-bromobenzyl)-7-chloro-1-methyl-5-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-5-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one (35 mg, 19%). 1H NMR (300 MHz, DMSO-d6) δ 3.32 (s, 3H) 3.49 (m, 2H), 3.82 (t, 1H), 6.89-7.17 (m, 3H), 7.28-7.71 (m, 7H), 10.70 (s, 1H), 10.87 (s, 1H); ESI m/z measured 509.0359 [M+H]+, calculated 509.0380.

reactant | (E)-3-(2-Bromobenzyl)-5,7-dichloro-1-methyl-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.364 mmol, 150 mg | BrC1=C(CC2\N=C(/C3=C(N(C2=O)C)C=CC(=C3)Cl)\Cl)C=CC=C1 | C17H13BrCl2N2O
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one | 0.364 mmol, 95 mg | CC1(OB(OC1(C)C)C1=CC2=C(NC(N2)=O)C=C1)C | C13H17BN2O3
reactant | lithium chloride | 1.09 mmol, 46 mg | [Cl-].[Li+]
reactant | cesium hydroxide monohydrate | 1.09 mmol, 183 mg | O.[OH-].[Cs+]
catalyst | Tetrakis(triphenylphosphine) palladium(0) | 0.036 mmol, 42 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 1 mL | O | H2O
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (Z)-3-(2-bromobenzyl)-7-chloro-1-methyl-5-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-5-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 35 mg, 19% | BrC1=C(CC2\N=C(/C3=C(N(C2=O)C)C=CC(=C3)Cl)\C3=CC2=C(NC(N2)=O)C=C3)C=CC=C1 | C24H18BrClN4O2
